US08440689B2
Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate
Ethyl 4-hydroxy-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (0.2 g, 0.876 mmol), tetraethylammonium chloride (0.145 g, 0.876 mmol), and N,N-dimethylaniline (0.112 mL, 0.876 mmol) were dispersed in acetonitrile (10 mL). The reaction mixture was stirred briefly followed by the addition of phosphorous oxychloride (0.204 mL, 2.190 mmol). The reaction was heated at 100° C. for 4 h. The solvent was subsequently removed in vacuo. The residue was poured onto ice to give an off-white oil, which was extracted with DCM (2×15 mL), and dried over anhydrous Na2SO4. The solvent was removed in vacuo to give the title compound as a yellowish-green oil (0.179 g, 83%). [M+H] calc'd for C9H11ClN2O2S, 247; found, 247.

reactant | Ethyl 4-hydroxy-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 0.876 mmol, 0.2 g | OC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H12N2O3S
reactant | N,N-dimethylaniline | 0.876 mmol, 0.112 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorous oxychloride | 2.190 mmol, 0.204 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | tetraethylammonium chloride | 0.876 mmol, 0.145 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 0.179 g, 83% | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
